US07217723B2
3-(4-Hydroxy-4-phenyl-piperidine-1-sulfonyl) 5,6-dihydro-4H-benzo[b]thiophene-7-one
From 4-phenyl-piperidine-4-ol (36 mg) and 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (50 mg), the title compound (72 mg) was obtained as a colorless amorphous substance, in the same way as Preparation Example 41.

reactant | 4-phenyl-piperidine-4-ol | 36 mg | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
product | 3-(4-Hydroxy-4-phenyl-piperidine-1-sulfonyl) 5,6-dihydro-4H-benzo[b]thiophene-7-one | 72 mg | OC1(CCN(CC1)S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C2=CC=CC=C2 | C19H21NO4S2
